US07253174B2
Synthesis of 3-{5-Bromo-6-[(2,2-dimethyl-propyl)-methyl-amino]-2-methylsulfanyl-pyrimidin-4-ylamino}-4,N-dimethyl-benzamide
To a solution of 3-{6-[(2,2-dimethyl-propyl)-methyl-amino]-2-methylsulfanyl-pyrimidin-4-ylamino}-4,N-dimethyl-benzamide (0.10 g) in methylene chloride (2 mL), was added sat. aq. sodium bicarbonate (0.05 mL) and bromine (0.013 mL). The resulting mixture was stirred at room temperature for 30 minutes, and ethyl acetate (30 mL) and magnesium sulfate (1 g) was added. After filtration and concentration, the residue was purified by silica gel column chromatography to afford the product (61.9 mg). MS (m/z): 466 (M+H).

reactant | 3-{6-[(2,2-dimethyl-propyl)-methyl-amino]-2-methylsulfanyl-pyrimidin-4-ylamino}-4,N-dimethyl-benzamide | 0.10 g | CC(CN(C1=CC(=NC(=N1)SC)NC=1C=C(C(=O)NC)C=CC1C)C)(C)C | C20H29N5OS
reactant | sodium bicarbonate | 0.05 mL | C([O-])(O)=O.[Na+]
reactant | bromine | 0.013 mL | BrBr | Br2
reactant | magnesium sulfate | 1 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 3-{5-Bromo-6-[(2,2-dimethyl-propyl)-methyl-amino]-2-methylsulfanyl-pyrimidin-4-ylamino}-4,N-dimethyl-benzamide | 61.9 mg | BrC=1C(=NC(=NC1N(C)CC(C)(C)C)SC)NC=1C=C(C(=O)NC)C=CC1C | C20H28BrN5OS
